* C:\Users\Owner\Desktop\amplifier\ClassDAmplifier\LTSpice\ClassDAmplifier.asc
A1 N001 N003 0 0 0 0 N002 0 SCHMITT vt=0 vh=0 vhigh=5 vlow=0
V1 N001 0 SINE(0.5 0.5 10k)
V2 N003 0 PULSE(0 1 0 2.5u 2.5u 0 5u)
A2 0 N002 0 N004 0 0 out1 0 OR vhigh=5
A3 0 N002 0 N004 0 0 out2 0 AND vhigh=5
R1 N002 N004 750
C1 N004 0 51p
.tran 20u
.backanno
.end
