* FQP50N06 ELECTRICAL MODEL (TO-220 N-Channel DMOSFET)

* ------------------------

.SUBCKT  FQP50N06  20  10  30

Rg     10    1    1

M1      2    1    3    3    DMOS    L=1u   W=1u

.MODEL DMOS NMOS (VTO={3.9*{-0.00072*TEMP+1.018}}  KP={47*{-0.00025*TEMP+1.00625}}

+  THETA=0.056    VMAX=7.5E4   LEVEL=3)

Cgs     1    3    1250p

Rd     20    4    5.6m TC=0.0067

Dds     3    4    DDS

.MODEL     DDS    D(BV={60*{0.00096*TEMP+0.976}}   M=0.5  CJO=375p

+    VJ={0.8*{0.0022*TEMP+1.055}})

Dbody   3   20    DBODY

.MODEL DBODY  D(IS=1.0E-13   N=0.98   RS=6.5m   EG=1.17    TT=52n)

Ra      4    2    5.2m TC=0.0067

Rs      3    5    0.2m

Ls      5    30   1.0n

M2      1    8    6    6   INTER

E2      8    6    4    1   2

.MODEL   INTER    NMOS(VTO=0  KP=10   LEVEL=1)

Cgdmax  7    4    1280p

Rcgd    7    4    10meg

Dgd     6    4    DGD

Rdgd    4    6    10meg

.MODEL     DGD    D(M=0.67   CJO=1280p   VJ=0.8)

M3      7    9    1    1   INTER

E3      9    1    4    1   -2

.ENDS FQP50N06

** FAIRCHILD SEMICONDUCTOR

